### PR TITLE
feat: Actions, Frames, Termination, and Ordinal standard libraries

### PR DESCRIPTION
**Pull request by robin-aws**
### What was changed?
See Std/Actions/Actions.md etc.

Also:
* Fixed a Java code generation bug I happened to hit (partial fix to #6147)
* Added a `nondeterministic` sub-project to `examples`, for code that isn't valid in `--enforce-determinism` mode

### How has this been tested?
See ActionsExamples.dfy etc.

<small>By submitting this pull request, I confirm that my contribution is made under the terms of the [MIT license](https://github.com/dafny-lang/dafny/blob/master/LICENSE.txt).</small>

### CODE REVIEW

File: Source/DafnyStandardLibraries/src/Std/Collections/Seq.dfy [hunk 1]
```diff
@@ -774,6 +774,25 @@ module Std.Collections.Seq {
     }
   }
 
+  lemma {:induction false} LemmaMapPartialFunctionDistributesOverConcat<T,R>(f: (T --> R), xs: seq<T>, ys: seq<T>)
```
Comment (robin-aws) [inline Source/DafnyStandardLibraries/src/Std/Collections/Seq.dfy:777]: I found this was necessary because MapPartialFunction was introduced, not sure if there's a better solution?

File: Source/DafnyStandardLibraries/examples/Actions/ActionsExamples.dfy [hunk 2]
```diff
@@ -0,0 +1,177 @@
...
+      ensures Valid() ==> this in Repr
+      ensures Valid() ==> CanProduce(history)
+      decreases height, 0
+    {
+      && this in Repr
+      && CanProduce(history)
+      && nextValue == |history|
+    }
+
+    constructor()
```
Comment (RustanLeino) [inline Source/DafnyStandardLibraries/examples/Actions/ActionsExamples.dfy:43]: Code style: `constructor()` looks like JavaScript to me. I would have written it with a space before the `()`, just like a named constructor `constructor Init()` but with an empty-string name.

File: Source/DafnyStandardLibraries/examples/Actions/ActionsExamples.dfy [hunk 3]
```diff
@@ -0,0 +1,177 @@
...
+  method SetEnumeratorExample() {
+    var s: set<nat> := {1, 2, 3, 4, 5};
+    var copy: set<nat> := {};
+    var e: SetEnumerator<nat> := new SetEnumerator(s);
+
+    label before:
+    for enumerated := 0 to 5
+      invariant e.Valid()
+      invariant enumerated == |e.history|
+      invariant fresh(e.Repr - old@before(e.Repr))
```
Comment (RustanLeino) [inline Source/DafnyStandardLibraries/examples/Actions/ActionsExamples.dfy:123]: Is `old@before(e.Repr)` all fresh as well? If so, you could just write `fresh(e.Repr)`.

File: Source/DafnyStandardLibraries/src/Std/Actions/Actions.dfy [hunk 4]
```diff
@@ -0,0 +1,620 @@
...
+  // specifically avoid reading the current state of the action.
+  // That is so extrisnic properties of an action do NOT depend on their current state.
+  // This is key to ensure that you can prove properties of a given action that
+  // will continue to hold as the Dafny heap changes.
+  // This approach works because Dafny understands that for a given object,
+  // the implementation of CanConsume/CanProduce cannot change over time.
+  //
+  // The downside is that these are then forced to use quantifiers
+  // to talk about all possible states of an action.
+  // The solution is the trait proof pattern,
```
Comment (RustanLeino) [inline Source/DafnyStandardLibraries/src/Std/Actions/Actions.dfy:37]: Nice. (I have yet to review it, but this sounds like a nice idea.)

File: Source/DafnyStandardLibraries/src/Std/Actions/Actions.dfy [hunk 5]
```diff
@@ -0,0 +1,620 @@
...
+  //
+  // === Errors ===
+  //
+  // Because the Action trait is so general,
+  // there are many error producing and handling patterns that
+  // can be expressed, even within the same type signature:
+  //
+  // 1. An Action<T, Option<R>> can produce None to indicate there is no value,
+  //    but the action could still be called again. Similarly a Result<R, E>
+  //    output could indicate a failure that is only related to that invocation.
```
Comment (RustanLeino) [inline Source/DafnyStandardLibraries/src/Std/Actions/Actions.dfy:61]: Under this option, is a subsequent invocation of the action obligated/guaranteed to produce "no value" again?

Comment (RustanLeino) [reply Source/DafnyStandardLibraries/src/Std/Actions/Actions.dfy:61]: Oh, the next bullets answer my question--it depends on what kind of Action it is.

File: Source/DafnyStandardLibraries/src/Std/Actions/Actions.dfy [hunk 6]
```diff
@@ -0,0 +1,620 @@
...
+  @AssumeCrossModuleTermination
+  trait Action<T, R> extends GenericAction<T, R>, Validatable {
+
+    ghost var history: seq<(T, R)>
+
+    ghost predicate Valid()
+      reads this, Repr
+      ensures Valid() ==> this in Repr
+      ensures Valid() ==> CanProduce(history)
+      decreases height, 0
```
Comment (RustanLeino) [inline Source/DafnyStandardLibraries/src/Std/Actions/Actions.dfy:104]: Where is `height` declared? I don't see it here and I don't see it in either `GenericAction` or `Validatable`.

File: Source/DafnyStandardLibraries/src/Std/Actions/Actions.dfy [hunk 7]
```diff
@@ -0,0 +1,620 @@
...
+      requires forall i <- Consumed() :: i == t
+      reads Repr
+      modifies Repr
+      decreases Repr
+      ensures Valid()
+    //ensures history == old(history) + (n copies of t)/(n - 1 not stop values + stop)
+
+    // Convenience methods for specifications
+
+    ghost method Update(t: T, r: R)
```
Comment (RustanLeino) [inline Source/DafnyStandardLibraries/src/Std/Actions/Actions.dfy:161]: Would a more specific name feel too long, like `UpdateHistory`? Or perhaps `RecordAction`?

File: Source/DafnyStandardLibraries/src/Std/Actions/Actions.dfy [hunk 8]
```diff
@@ -0,0 +1,620 @@
...
+      reads `history
+      modifies `history
+      ensures history == old(history) + [(t, r)]
+    {
+      history := history + [(t, r)];
+    }
+
+    ghost function Consumed(): seq<T>
```
Comment (RustanLeino) [inline Source/DafnyStandardLibraries/src/Std/Actions/Actions.dfy:169]: I'm reading the names `Consumed()` and `Produced()` as if they were returned a boolean (like `Terminated()` below). A slightly longer name, but possibly better at resolving such ambiguity, is `ConsumedSoFar()` (and `ProducedSoFar()`). Hmm, maybe those have the same problem. Maybe `ConsumptionHistory` or `ConsumeHistory`? Or `ElementsConsumed` (but "elements" is not quite right)?

File: Source/DafnyStandardLibraries/src/Std/Actions/Actions.dfy [hunk 9]
```diff
@@ -0,0 +1,620 @@
...
+    requires a.Valid()
+    requires eventuallyStopsProof.Action() == a
+    requires eventuallyStopsProof.FixedInput() == t
+    requires eventuallyStopsProof.StopFn() == stop
+    requires forall i <- a.Consumed() :: i == t
+    reads a.Repr
+    modifies a.Repr
+    ensures a.Valid()
+  {
+    while (true)
```
Comment (RustanLeino) [inline Source/DafnyStandardLibraries/src/Std/Actions/Actions.dfy:192]:
```suggestion
    while true
```

File: Source/DafnyStandardLibraries/src/Std/Actions/Actions.dfy [hunk 10]
```diff
@@ -0,0 +1,620 @@
...
+    forall i | 0 <= i < |s| :: n <= i <==> stop(s[i])
+  }
+
+  lemma TerminatedDistributes<T>(left: seq<T>, right: seq<T>, stop: T -> bool, n: nat)
+    requires Terminated(left, stop, |left|)
+    requires Terminated(right, stop, n)
+    ensures Terminated(left + right, stop, |left| + n)
+  {}
+
+  lemma TerminatedUndistributes<T>(left: seq<T>, right: seq<T>, stop: T -> bool, n: nat)
```
Comment (RustanLeino) [inline Source/DafnyStandardLibraries/src/Std/Actions/Actions.dfy:247]: Instead of `...Distributes` and `...Undistributes`, consider `...Composition` and `...Decomposition`.

File: Source/DafnyStandardLibraries/src/Std/Actions/Actions.dfy [hunk 11]
```diff
@@ -0,0 +1,620 @@
...
+      ProducesTerminated(old(Action().history));
+      var n: nat :| n <= Limit() && Terminated(before, StopFn(), n);
+      ProducesTerminated(Action().history);
+      var m: nat :| m <= Limit() && Terminated(after, StopFn(), m);
+      if n < |before| {
+        assert StopFn()(before[|before| - 1]);
+        assert !StopFn()(Action().Produced()[|Action().Produced()| - 1]);
+        assert |Action().Produced()| <= m;
+        assert !StopFn()(Action().Produced()[|before| - 1]);
+        assert false;
```
Comment (RustanLeino) [inline Source/DafnyStandardLibraries/src/Std/Actions/Actions.dfy:299]: Alternatively, this could be formulated as

``` dafny
assert false by {
  // the other 4 asserts
}
```

File: Source/DafnyStandardLibraries/src/Std/Actions/Actions.dfy [hunk 12]
```diff
@@ -0,0 +1,620 @@
...
+      requires Requires(t)
+      reads Repr
+      modifies Modifies(t)
+      decreases Decreases(t).Ordinal()
+      ensures Ensures(t, r)
+    {
+      var next := stepFn(state);
+      match next {
+        case Some(result) => {
+          var (newState, result') := result;
```
Comment (RustanLeino) [inline Source/DafnyStandardLibraries/src/Std/Actions/Actions.dfy:453]: This looks nice. But if you prefer, it should also be possible to write it with a nested pattern:

``` dafny
case Some((newState, result')) =>
```

Also, note that the curly braces around an entire `case` body is never necessary, because each `case` is already a block scope by itself.

File: Source/DafnyStandardLibraries/src/Std/Actions/Actions.dfy (hunk 6 above)
Comment (robin-aws) [reply Source/DafnyStandardLibraries/src/Std/Actions/Actions.dfy:104]: It's in Validatable: https://github.com/dafny-lang/dafny/pull/6074/files#diff-0b0f5955cb5fd06f070d39c6fdb5a86afa82052216bda63dac22084480020188R10

File: Source/DafnyStandardLibraries/src/Std/Actions/Enumerators.dfy [hunk 13]
```diff
@@ -0,0 +1,292 @@
...
+      DefaultRepeatUntil(this, t, stop, eventuallyStopsProof);
+    }
+
+    ghost function Limit(): nat {
+      |elements|
+    }
+
+    lemma ProducesTerminated(history: seq<((), Option<T>)>)
+      requires Action().CanProduce(history)
+      requires (forall i <- Inputs(history) :: i == FixedInput())
```
Comment (RustanLeino) [inline Source/DafnyStandardLibraries/src/Std/Actions/Enumerators.dfy:182]: Parens not necessary

File: Source/DafnyStandardLibraries/src/Std/Actions/Enumerators.dfy [hunk 14]
```diff
@@ -0,0 +1,292 @@
...
+
+    method Invoke(t: ()) returns (r: Option<T>)
+      requires Requires(t)
+      reads Repr
+      modifies Modifies(t)
+      decreases Decreases(t).Ordinal()
+      ensures Ensures(t, r)
+    {
+      label start:
+      while (|buffer.values| == 0)
```
Comment (RustanLeino) [inline Source/DafnyStandardLibraries/src/Std/Actions/Enumerators.dfy:223]: Parens no needed

File: Source/DafnyStandardLibraries/src/Std/Actions/Enumerators.dfy [hunk 15]
```diff
@@ -0,0 +1,292 @@
...
+        invariant fresh(upstream.Repr - old(upstream.Repr))
+        invariant Valid()
+        invariant buffer.ValidAndDisjoint()
+        invariant upstream.ValidAndDisjoint()
+        invariant history == old(history)
+        modifies Repr
+        decreases upstream.Remaining()
+      {
+        var u := upstream.Next();
+        Repr := {this} + upstream.Repr + buffer.Repr;
```
Comment (RustanLeino) [inline Source/DafnyStandardLibraries/src/Std/Actions/Enumerators.dfy:236]: Alternatively, it may work to do `Repr := Repr + upstream.Repr;`. Or, if this kind of assignment was done often, you could put the assignment, as you have it, into a helper ghost method.

File: Source/DafnyStandardLibraries/src/Std/Actions/Aggregators.dfy [hunk 16]
```diff
@@ -0,0 +1,299 @@
...
+  //   (returns an Option<T> rather than a T). A dual to that concept should also be allowed
+  //   to accept only a finite number of elements, so it should probably return a boolean.
+  //   This would be the kind of Action that writes element in sequence into a fixed-length array,
+  //   for example, and therefore has finite capacity.
+  //   
+  //   Perhaps we should have:
+  //     - IEnumerator = Action<(), T> (potentially infinite enumeration)
+  //     - Enumerator = Action<(), Option<T>> + proofs of eventually producing None (finite enumeration)
+  //     - IAggregator = Action<T, ()> (potentially infinite aggregation)
+  //     - Aggregator = Action<T, boolean> + proofs of eventually producing false (finite aggregation)
```
Comment (RustanLeino) [inline Source/DafnyStandardLibraries/src/Std/Actions/Aggregators.dfy:26]: I like the distinction between `IEnumerator` and `Enumerator` and see how that could be useful. But, your comments about duality notwithstanding, I don't see a practical use for a "can only accept a finite number of things" `Aggregator`.

File: Source/DafnyStandardLibraries/src/Std/Frames.dfy [hunk 17]
```diff
@@ -0,0 +1,37 @@
+module Std.Frames {
+
+  // A trait for objects with a Valid() predicate. Necessary in order to
+  // generalize some proofs, but also useful for reducing the boilerplate
+  // that most such objects need to include.
+  trait Validatable {
+    // Ghost state tracking the common set of objects most
+    // methods need to read.
+    ghost var Repr: set<object>
+    ghost const height: nat
```
Comment (RustanLeino) [inline Source/DafnyStandardLibraries/src/Std/Frames.dfy:10]: Aha! As you said, here it is.

File: Source/DafnyStandardLibraries/src/Std/Streams/Streams.dfy [hunk 18]
```diff
@@ -0,0 +1,317 @@
...
+    ghost predicate CanProduce(history: seq<((), Option<bytes>)>)
+      decreases height
+    {
+      && (forall o <- Enumerated(Outputs(history)) :: 0 < |o|)
+      && ConcatenatedOutputs(history) <= data
+    }
+
+    lemma {:axiom} ProducesTerminated(history: seq<((), Option<bytes>)>)
+      requires Action().CanProduce(history)
+      requires (forall i <- Inputs(history) :: i == FixedInput())
```
Comment (RustanLeino) [inline Source/DafnyStandardLibraries/src/Std/Streams/Streams.dfy:78]: Parens not needed

File: Source/DafnyStandardLibraries/src/Std/Streams/Streams.dfy [hunk 19]
```diff
@@ -0,0 +1,317 @@
...
+
+    ghost predicate CanProduce(history: seq<((), Option<bytes>)>)
+      decreases height
+    {
+      && (forall o <- Enumerated(Outputs(history)) :: 0 < |o|)
+    }
+
+    lemma {:axiom} ProducesTerminated(history: seq<((), Option<BoundedInts.bytes>)>)
+      requires Action().CanProduce(history)
+      requires (forall i <- Inputs(history) :: i == FixedInput())
```
Comment (RustanLeino) [inline Source/DafnyStandardLibraries/src/Std/Streams/Streams.dfy:139]: Parens not needed. (Occurs in other places in this same form, too.)

File: Source/DafnyStandardLibraries/src/Std/Termination.dfy [hunk 20]
```diff
@@ -0,0 +1,79 @@
...
+        match (rest, other.rest) {
+          case (_, Top) => false
+          case (Top, More(_)) => true
+          case (More(next), More(otherNext)) => next.DecreasesTo(otherNext)
+        }
+      else
+        first.DecreasesTo(other.first)
+    }
+
+    ghost function {:axiom} Ordinal(): ORDINAL
```
Comment (RustanLeino) [inline Source/DafnyStandardLibraries/src/Std/Termination.dfy:19]: Given how few operations we have defined on `ORDINAL`, this is probably no different than `nat` in our current state.

**Review by RustanLeino — COMMENTED** [review]
This generally looks good everywhere. I look forward to seeing this starting to get used.

File: Source/DafnyStandardLibraries/src/Std/Actions/Aggregators.dfy (hunk 16 above)
Comment (robin-aws) [reply Source/DafnyStandardLibraries/src/Std/Actions/Aggregators.dfy:26]: I think there are definitely cases of aggregators with "finite capacity". For example, an Aggregator that stores consumed values into an array in order. That could be either an `IAggregator` with a `CanConsume` precondition that the aggregator still has room, or an `Aggregator` that returns `false` if it's out of room.

I realize now that I have an `ArrayAggregator` that uses a `DynamicArray` and hence doesn't have a fixed capacity. I'll rename that to `DynamicArrayAggregator` and also include an `ArrayAggregator` to motivate this better.

File: Source/DafnyStandardLibraries/src/Std/Actions/Actions.dfy (hunk 11 above)
Comment (robin-aws) [reply Source/DafnyStandardLibraries/src/Std/Actions/Actions.dfy:299]: I definitely like that better, puts the conclusion right up front. Otherwise it's more like you're waiting to the end of the movie to find out "Aha, he's actually been a ghost this whole time!" :)

File: Source/DafnyStandardLibraries/src/Std/Actions/Enumerators.dfy [hunk 21]
```diff
@@ -0,0 +1,292 @@
...
+    }
+
+    lemma CanConsumeAll(history: seq<((), Option<T>)>, next: ())
+      requires Action().CanProduce(history)
+      ensures Action().CanConsume(history, next)
+    {}
+
+    lemma ProducesTerminated(history: seq<((), Option<T>)>)
+      requires Action().CanProduce(history)
+      requires (forall i <- Inputs(history) :: i == FixedInput())
```
[the remark this answers is not in the document]
Comment (robin-aws) [reply Source/DafnyStandardLibraries/src/Std/Actions/Enumerators.dfy:42]: I find these often show up when I'm heavily refactoring code. Would be good to have a linting rule.

File: Source/DafnyStandardLibraries/src/Std/Actions/Enumerators.dfy [hunk 22]
```diff
@@ -0,0 +1,292 @@
...
+
+    // For better readability
+    method Next() returns (r: Option<T>)
+      requires Requires(())
+      reads Reads(())
+      modifies Modifies(())
+      ensures Ensures((), r)
+      ensures r.Some? ==> Remaining() < old(Remaining())
+    {
+      assert Requires(());
```
[the remark this answers is not in the document]
Comment (robin-aws) [reply Source/DafnyStandardLibraries/src/Std/Actions/Enumerators.dfy:53]: Yes, since the CanCall change.

File: Source/DafnyStandardLibraries/src/Std/Termination.dfy (hunk 20 above)
Comment (robin-aws) [reply Source/DafnyStandardLibraries/src/Std/Termination.dfy:19]: Agreed, and I'm going to clean this up a bit so we don't claim to support anything other than nat for now, but at least have this concept in place in order to define the signature for `GenericAction`

**Comment by robin-aws** [comment]
Temporarily closing to avoid pointless CI while I push progress

**Comment by robin-aws** [comment]
Saving CI capacity again

File: Source/DafnyStandardLibraries/src/Std/Frames.dfy [hunk 23]
```diff
@@ -0,0 +1,88 @@
...
+    // ensure that the new object's Repr is fresh,
+    // it is not possible to prove the actual proof obligation,
+    // which is `old(Repr) decreases to (new object).Repr`.
+    // See FramesExamples.dfy for a detailed example.
+    //
+    // TODO: Okay it's now or never - Repr or repr?? :)
+    ghost var Repr: set<object>
+
+    // TODO: Similarly, would Invariant() be better?
+    ghost predicate Valid()
```
Comment (RustanLeino) [inline Source/DafnyStandardLibraries/src/Std/Frames.dfy:26]: I vote for `Valid`. The intention is that the condition be invariant, but it describes what it means for the data structure to be valid. Also, it's a bit funny to say that a method "requires and ensures the invariant", since it's the fact that the method "requires and ensures `X`" that makes `X` an invariant in the first place.

File: Source/DafnyStandardLibraries/src/Std/Ordinal.dfy [hunk 24]
```diff
@@ -0,0 +1,154 @@
...
+  // Additional axioms about addition
+
+  lemma {:axiom} Succ(a: ORDINAL, b: ORDINAL)
+    ensures a < b <==> a + 1 <= b
+
+  ghost function {:axiom} PlusLimit(left: ORDINAL, right: ORDINAL): (result: ORDINAL)
+    decreases right, 0
+    ensures forall right' | right' < right :: Plus(left, right') < result
+    ensures forall result' {:trigger} |
+              forall right' | right' < right :: Plus(left, right') < result' :: result <= result'
```
Comment (RustanLeino) [inline Source/DafnyStandardLibraries/src/Std/Ordinal.dfy:22]: The fact that you're using `{:trigger}` here suggests to me that Dafny doesn't recognize that `<=` on `ORDINAL` would be acceptable as a trigger. We should consider extending Dafny to do that.

File: Source/DafnyStandardLibraries/src/Std/Ordinal.dfy [hunk 25]
```diff
@@ -0,0 +1,154 @@
...
+    ensures Omega().IsLimit
+    ensures forall other: ORDINAL | other.IsLimit && other != 0 :: Omega() <= other
+
+  // Additional axioms about addition
+
+  lemma {:axiom} Succ(a: ORDINAL, b: ORDINAL)
+    ensures a < b <==> a + 1 <= b
+
+  ghost function {:axiom} PlusLimit(left: ORDINAL, right: ORDINAL): (result: ORDINAL)
+    decreases right, 0
```
Comment (RustanLeino) [inline Source/DafnyStandardLibraries/src/Std/Ordinal.dfy:19]: I usually write the `decreases` clause after `requires`, `reads`, `modifies`, and `ensures`. If you feel the same, feel free to make that change here and below.

File: Source/DafnyStandardLibraries/src/Std/Termination.dfy [hunk 26]
```diff
@@ -0,0 +1,291 @@
...
+    {
+      if s == multiset{} then
+        0
+      else
+        var x := ExtractFromNonEmptyMultiset(s);
+        Max(x.Ordinal(), MaxOrdinal(parent, s - multiset{x}))
+    }
+
+    // parent is a MaxOrdinal() parameter just to prove termination,
+    // but doesn't affect the actual result.
```
Comment (RustanLeino) [inline Source/DafnyStandardLibraries/src/Std/Termination.dfy:80]: This comment would be good on `MaxOrdinal` as well.

File: Source/DafnyStandardLibraries/examples/nondeterministic/ActionsExamples.dfy [hunk 27]
```diff
@@ -0,0 +1,237 @@
+module ActionsExamples {
+  import opened Std.Actions
+  import opened Std.Consumers
+  import opened Std.Producers
+  import opened Std.Termination
+  import opened Std.Wrappers
+
+
+  // Adapting an iterator to a producer
```
[the remark this answers is not in the document]
Comment (robin-aws) [reply Source/DafnyStandardLibraries/examples/nondeterministic/ActionsExamples.dfy:9]: I do still want to add an example of enumerating a codatatype, but I'll include that in the next batch of changes to this library.

File: Source/DafnyStandardLibraries/examples/nondeterministic/ActionsExamples.dfy [hunk 28]
```diff
@@ -0,0 +1,237 @@
...
+      && iter.Valid()
+    }
+
+    constructor ()
+      ensures Valid()
+      ensures fresh(Repr)
+    {
+      this.iter := new FibonacciIterator();
+      new;
+      Repr := {this, iter} + NonNullElements(iter._reads) + NonNullElements(iter._modifies) + NonNullElements(iter._new);
```
[the remark this answers is not in the document]
Comment (robin-aws) [reply Source/DafnyStandardLibraries/examples/nondeterministic/ActionsExamples.dfy:54]: Yeah I was surprised too. Probably not worth changing by itself, but worth changing if and when we revamp iterators in general.

File: Source/DafnyStandardLibraries/src/Std/Actions/Actions.dfy [hunk 29]
```diff
@@ -0,0 +1,374 @@
...
+  }
+
+  class ComposedAction<I, M, O> extends Action<I, O> {
+
+    const first: Action<I, M>
+    const second: Action<M, O>
+
+    ghost const compositionProof: ActionCompositionProof<I, M, O>
+
+    constructor(first: Action<I, M>, second: Action<M, O>, ghost compositionProof: ActionCompositionProof<I, M, O>)
```
[the remark this answers is not in the document]
Comment (robin-aws) [reply Source/DafnyStandardLibraries/src/Std/Actions/Actions.dfy:253]: Proof by Humble Opinion!

File: Source/DafnyStandardLibraries/src/Std/Actions/Producers.dfy [hunk 30]
```diff
@@ -0,0 +1,1272 @@
...
+    method ForEachRemaining(consumer: IConsumer<T>, ghost totalActionProof: TotalActionProof<T, ()>)
+      requires Valid()
+      requires consumer.Valid()
+      requires Repr !! consumer.Repr !! totalActionProof.Repr
+      requires totalActionProof.Valid()
+      requires totalActionProof.Action() == consumer
+      modifies Repr, consumer.Repr
+    {
+      var t := Next();
+      while t != None
```
[the remark this answers is not in the document]
Comment (robin-aws) [reply Source/DafnyStandardLibraries/src/Std/Actions/Producers.dfy:199]: Good point, goes against my own examples! Fixed.

File: Source/DafnyStandardLibraries/src/Std/Actions/Actions.md [hunk 31]
```diff
@@ -0,0 +1,133 @@
...
+See the other sibling files for some useful specializations:
+
+| Type           | Supertype               | Behavior                                                        |
+| -------------- | ----------------------- | --------------------------------------------------------------- |
+| `IProducer<T>` | `Action<(), T>`         | consumes nothing, may produce infinite values                   |
+| `Producer<T>`  | `Action<(), Option<T>>` | consumes nothing, must produce finite values                    |
+| `IConsumer<T>` | `Action<T, ()>`         | produces nothing, may consume infinite values                   |
+| `Consumer<T>`  | `Action<T, boolean>`    | produces nothing, may be eventually exhausted and output false  |
+
+These concepts are duals to each other (`IProducer`/`IConsumer`, and `Producer`/`Consumer`).
```
[the remark this answers is not in the document]
Comment (robin-aws) [reply Source/DafnyStandardLibraries/src/Std/Actions/Actions.md:124]: YES this bothered me too as I realized it. I was originally thinking there was no use case for having to prove a `Consumer` must run out of capacity. I had been assuming the termination of something like `ForEachRemaining` could only ever be driven from the producing side. However, I can see now that you could also reverse that and have a dual `ForEachRemaining` that saturates a `Consumer` with an `IProducer`. You could imagine populating a new array by creating an `ArrayWriter` and then invoking something like `Populate(arrayWriter, <some producer of initial values>)`.

I aligned the descriptions and added an example defining the alternate `ForEachRemaining`, but also still weakened the claim to "mostly duals" just to be safe, as I'm not actually depending on them being literally duals in any sense, only helping to explain the design motivation. :)

File: Source/DafnyStandardLibraries/src/Std/Collections/Seq.dfy (hunk 1 above)
[the remark this answers is not in the document]
Comment (robin-aws) [reply Source/DafnyStandardLibraries/src/Std/Collections/Seq.dfy:777]: Done, although the rest of the file has the same issues throughout. We should add linting/formatting rules for unnecessary parentheses in particular.

File: Source/DafnyStandardLibraries/src/Std/Frames.dfy [hunk 32]
```diff
@@ -0,0 +1,88 @@
...
+    // for other methods on implementing types.
+    // In particular, methods with loops that allocate new objects
+    // probably can't use Repr, because even if constructors
+    // ensure that the new object's Repr is fresh,
+    // it is not possible to prove the actual proof obligation,
+    // which is `old(Repr) decreases to (new object).Repr`.
+    // See FramesExamples.dfy for a detailed example.
+    //
+    // TODO: Okay it's now or never - Repr or repr?? :)
+    ghost var Repr: set<object>
```
[the remark this answers is not in the document]
Comment (robin-aws) [reply Source/DafnyStandardLibraries/src/Std/Frames.dfy:23]: So it sounds like you'd like to amend the [Dafny style guide](https://dafny.org/latest/StyleGuide/Style-Guide) to add a clause something like:

"Any *fields* or *constants* that public clients may reference are named with `PascalCase`, and `camelCase` otherwise. This includes at least all symbols included in at least one export set."

The style guide currently doesn't say anything about fields and non-static constants, and I think most users have inferred that they should always be `camelCase`. The existing standard library code is already not consistent -for example `DynamicArray` has:

```dafny
    ghost var items: seq<A>
    ghost var Repr: set<object>
```

I'll definitely keep `Repr` here, but independently we should clarify this point and then go back and align the code better throughout (possibly as part of Dafny 5.0 since we may want change symbols that may already be in use).

File: Source/DafnyStandardLibraries/src/Std/Ordinal.dfy (hunk 24 above)
Comment (robin-aws) [reply Source/DafnyStandardLibraries/src/Std/Ordinal.dfy:22]: I'd definitely love to consider adding more axioms and operations on ordinals in the future in general, but only if we think anything besides this module would benefit.

File: Source/DafnyStandardLibraries/src/Std/Ordinal.dfy (hunk 25 above)
Comment (robin-aws) [reply Source/DafnyStandardLibraries/src/Std/Ordinal.dfy]: For the record I've actually always preferred this order:

```
requires ...
reads ...
modifies ...
decreases ...
ensures ...
```

Mainly because I think of it "chronologically", and it feels like the `decreases` is relevant "during" the evaluation to ensure termination, and the `ensures` is relevant "after".

But I do see that the style guide agrees with you so I'm happy to align. :)

Comment (RustanLeino) [reply Source/DafnyStandardLibraries/src/Std/Ordinal.dfy]: I see. That's a decent rule. For the record, here are two other thoughts on this matter:

* I, too, think of `requires` as happening before `reads`, but the language design is actually to allow the two to be mutually dependent. For example,

    ``` dafny
    class Cell { var data: int }
    function F(a: array<Cell>, i: nat): int
      requires i < a.Length && a[i].data == 10
      reads a, a[i]
    ```

* I think the reason I've placed `decreases` last is because it feels relevant to the _implementation_ of the function/method, not so much to the _caller_. This makes sense for a function/method `M` that is in its own SCC and is itself recursive. But for a caller that's mutually recursive with `M`, the `decreases` clause of `M` is part of the specification that a caller needs to know about.

**Review by RustanLeino — APPROVED** [review]
